US06162832
To a solution of 4-(2-aminophenoxy)phenol (0.85 g, 4.2 mmol) in N,N-dimethylformamide (20 ml) were added 3-nitrobenzyl chloride (0.87 g, 5.1 mmol), potassium iodide (0.70 g, 4.2 mmol) and potassium carbonate (0.88 g, 6.4 mmol), followed by stirring at 50° C. for 3 hours. The reaction solution was poured into water and extracted with ethyl acetate, and the organic layer was washed with water and a saturated aqueous sodium chloride solution. After drying, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; chloroform) to give 2-[4-(3-nitrobenzyloxy)phenoxy]aniline (0.64 g)

reactant | 4-(2-aminophenoxy)phenol | 4.2 mmol, 0.85 g | NC1=C(OC2=CC=C(C=C2)O)C=CC=C1 | C12H11NO2
reactant | 3-nitrobenzyl chloride | 5.1 mmol, 0.87 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | potassium iodide | 4.2 mmol, 0.70 g | [I-].[K+]
reactant | potassium carbonate | 6.4 mmol, 0.88 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[4-(3-nitrobenzyloxy)phenoxy]aniline | 0.64 g | [N+](=O)([O-])C=1C=C(COC2=CC=C(OC3=C(N)C=CC=C3)C=C2)C=CC1 | C19H16N2O4
